US05808062
4-Hydroxy-6-phenyl-3-[[[4-(phenylmethoxy)phenyl]methyl]thio]-2H-pyran-2-one:
The title compound was prepared by Method B using 4-hydroxy-6-phenyl-2H-pyran-2-one (0.500 g, 2.65 mmol), ethanol (7 mL), 1N sodium hydroxide (2.65 mL), [4-(phenylmethoxy)phenyl]methyl-p-toluenethiosulfonate (1.01 g, 2.65 mmol). m.p. 185°-186° C.; 1H NMR (400 MHz, DMSO-d6) δ 3.94 (s, 2 H), 5.03 (s, 2 H), 6.72 (s, 1 H), 6.89 (d, 2 H), 7.18 (d, 2 H), 7.34 (m, 5 H), 7.46 (m, 3 H), 7.80 (m, 3 H).

reactant | 3,3'-Dithiobis[4-hydroxy-6-phenyl-2H-pyran-2-one] | 2.65 mmol, 0.500 g | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SSC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C22H14O6S2
reactant | sodium hydroxide | 1N, 2.65 mL | [OH-].[Na+]
reactant | [4-(phenylmethoxy)phenyl]methyl-p-toluenethiosulfonate | 2.65 mmol, 1.01 g | C1(=CC=CC=C1)COC1=CC=C(C=C1)COS(=O)(=S)C1=CC=C(C=C1)C | C21H20O3S2
solvent | ethanol | 7 mL | C(C)O | C2H6O
product | 4-Hydroxy-6-phenyl-3-[[[4-(phenylmethoxy)phenyl]methyl]thio]-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SCC1=CC=C(C=C1)OCC1=CC=CC=C1 | C25H20O4S
